US06835714B1
A suspension containing lithium aluminum hydride (1.2 g) and tetrahydrofuran (200 ml) is stirred under reflux for 1.5 hour. The reaction solution is cooled to room temperature, and thereto is added dropwise benzylamine (17.3 g). Then, to the mixture is added dropwise tetrahydrofuran (150 ml) containing (3S)-3-benzyloxycarbonylamino-2-hydroxy-4-methylbutyric acid ethyl ester (10 g), and the mixture is stirred at room temperature for 12 hours. Water is carefully added to the reaction solution, and the mixture is extracted with ethyl acetate. The extract is dried over magnesium sulfate, and the solvent is removed by evaporation under reduced pressure. The residue is purified by silica gel column chromatography [solvent; n-hexane:ethyl acetate (1:1)] to give the desired (1S)-3-benzylamino-1-benzyloxycarbonylamino-1-isopropyl-2-hydroxy-3-oxopropane (9.2 g) as colorless oil.

reactant | lithium aluminum hydride | 1.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | benzylamine | 17.3 g | C(C1=CC=CC=C1)N | C7H9N
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | (3S)-3-benzyloxycarbonylamino-2-hydroxy-4-methylbutyric acid ethyl ester | 10 g | C(C)OC(C([C@H](CC)NC(=O)OCC1=CC=CC=C1)O)=O | C15H21NO5
solvent | Water | O | H2O
product | (1S)-3-benzylamino-1-benzyloxycarbonylamino-1-isopropyl-2-hydroxy-3-oxopropane | 9.2 g | C(C1=CC=CC=C1)NC(C([C@H](C(C)C)NC(=O)OCC1=CC=CC=C1)O)=O | C21H26N2O4
